US05665718
10.8 g (23 mmol) of crude (S)-7-fluoro-12,12a-dihydro-1-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one in 150 ml of ethanol were treated dropwise with 150 ml of methylamine (33% in ethanol) at 60° C. within 30 min. The solution was stirred at 70° for 2 hours and subsequently concentrated. The residue was taken up in methylene chloride and 30 ml of 4N hydrochloric acid and the solution was washed three times with methylene chloride. The aqueous phase was made alkaline with 30 ml of 4N sodium hydroxide solution and extracted five times with methylene chloride. After drying the combined organic solutions and evaporating the solvent there were obtained 7.5 g (96%) of (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was used without further crystallization as the starting material for the Example described hereinafter.

reactant | (S)-7-fluoro-12,12a-dihydro-1-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 23 mmol, 10.8 g | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C4=NC(=NO4)CN4C(C=2C(C4=O)=CC=CC2)=O)CC3)=O)C1 | C24H15FN6O4
reactant | methylamine | 150 ml | CN | CH5N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 7.5 g, 96% | NCC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3)F)=O)CC1 | C16H13FN6O2
